US08017775B2
5-Hydroxymethyl-6-phenyl-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 7-1)
5-Hydroxymethyl-6-(2-trifluoromethylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 6-1, 136 mg, 0.318 mmol) was dissolved in anhydrous N,N-dimethylformamide (1.5 mL), then the solvent was bubbled with argon for 2 minutes, and then tetrakis(triphenylphosphine)palladium(0) (35.6 mg, 0.0308 mmol), triethylamine (221 μL, 1.59 mmol) and formic acid (60 μL, 1.6 mmol) were added thereto. After the reaction mixture was stirred at 60° C. for 10 hours, it was diluted with ethyl acetate (50 mL). The whole was washed with saturated NaHCO3 solution (30 mL) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (93.0 mg) as a yellow oil. (quantative)

reactant | 5-Hydroxymethyl-6-(2-trifluoromethylsulfonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OCC1=C2C(=CC(NC2=CC=C1C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)(C)C)C | C20H20F3NO4S
reactant | triethylamine | 1.59 mmol, 221 μL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 1.6 mmol, 60 μL | C(=O)O | CH2O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0308 mmol, 35.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Hydroxymethyl-6-phenyl-2,2,4-trimethyl-1,2-dihydroquinoline | 93.0 mg | OCC1=C2C(=CC(NC2=CC=C1C1=CC=CC=C1)(C)C)C | C19H21NO
